US04005217
1-Methoxycarbonyl-3-(2-amino-4-n-butylphenyl)thiourea (15.0 g; 0.053 mole) and formic acid (18.4 g; 0.4 mole) were mixed together at laboratory temperature and the mixture was refluxed for forty minutes. The hot clear solution was then poured into water, and the solid which separated was filtered off, washed with water, dried and crystallised from 2-ethoxyethanol to give 1-methoxycarbonyl-3-(4-n-butyl-2-formamidophenyl)thiourea (12.0 g), m.p. 182°-183° C. (with decomposition).

reactant | 1-Methoxycarbonyl-3-(2-amino-4-n-butylphenyl)thiourea | 0.053 mole, 15.0 g | COC(=O)NC(=S)NC1=C(C=C(C=C1)CCCC)N | C13H19N3O2S
reactant | formic acid | 0.4 mole, 18.4 g | C(=O)O | CH2O2
solvent | water | O | H2O
product | 1-methoxycarbonyl-3-(4-n-butyl-2-formamidophenyl)thiourea | 12.0 g | COC(=O)NC(=S)NC1=C(C=C(C=C1)CCCC)NC=O | C14H19N3O3S
